US04017522
N,N-bis(2-lauroyloxyethyl)benzamide
N,N-bis(2-lauroyloxyethyl)-benzamide was prepared by the procedure of example 1 from 19.5 gms. (0.1 mole) of N,N-bis(2-hydroxyethyl)benzamide and 44 gms. (0.2 mole) of lauroyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N,N-bis(2-hydroxyethyl)benzamide | 0.1 mole | OCCN(C(C1=CC=CC=C1)=O)CCO | C11H15NO3
reactant | lauroyl chloride | 0.2 mole | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N,N-bis(2-lauroyloxyethyl)benzamide | C(CCCCCCCCCCC)(=O)OCCN(C(C1=CC=CC=C1)=O)CCOC(CCCCCCCCCCC)=O | C35H59NO5
